US05135932
6-[1-[3-[3-(4-(2-Isobutoxyethyl)phenoxy)-2hydroxypropylamino]propyl]benzimidazol-5-yl]-4,5-dihydro-3-(2H)-pyridazinone
Prepared analogously to Example 1 from 1-[4-(2-isobutoxyethyl)-phenoxy]-2,3-epoxypropane and 6-[1-(3-aminopropyl)benzimidazol-5-yl]-4,5-dihydro-3(2H)-pyridazinone.

reactant | 1-[4-(2-isobutoxyethyl)-phenoxy]-2,3-epoxypropane | C(C(C)C)OCCC1=CC=C(OCC2CO2)C=C1 | C15H22O3
reactant | 6-[1-(3-aminopropyl)benzimidazol-5-yl]-4,5-dihydro-3(2H)-pyridazinone | NCCCN1C=NC2=C1C=CC(=C2)C=2CCC(NN2)=O | C14H17N5O
product | 6-[1-[3-[3-(4-(2-Isobutoxyethyl)phenoxy)-2hydroxypropylamino]propyl]benzimidazol-5-yl]-4,5-dihydro-3-(2H)-pyridazinone | C(C(C)C)OCCC1=CC=C(OCC(CNCCCN2C=NC3=C2C=CC(=C3)C=3CCC(NN3)=O)O)C=C1 | C29H39N5O4
